US05663200
6c) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid
In analogy with Example 5f), 5.0 g (7.85 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid in 74 ml of DMF are silylated with 5.4 g (36.1 mmol) of tert-butyldimethylchlorosilane and 4.4 g (64.4 mmol) of imidazole. Hydrolysis of the silyl ester function with 6.5 g of potassium carbonate in 85 ml of methanol, 22 ml of THF and 22 ml of water yields the title compound after column chromatography (SiO2, hexane/ethyl acetate, 1:1) and stirring-up with DIPE: TLC Rf (C)=0.5; tRet (II)=21.0 min.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid | 7.85 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)O)CC1=CC=CC=C1 | C31H35Cl2NO7S
reactant | tert-butyldimethylchlorosilane | 36.1 mmol, 5.4 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 64.4 mmol, 4.4 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 74 ml | CN(C)C=O | C3H7NO
solvent | methanol | 85 ml | CO | CH4O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
solvent | water | 22 ml | O | H2O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-{[p-(2,6-dichlorobenzylsulfonyl)phenyl]methyl}hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C37H49Cl2NO7SSi
